US05134128
3-[1-Acetoxy-2-(2-methoxyethoxy)methoxyethyl]-5-trimethylsilylfuran
A solution of 2-methoxyethoxymethyl tributylstannylmethyl ether (620 mg, 1.5 mmole) in tetrahydrofuran (THF) (5 ml) at -78° C. was treated with n-butyl lithium (a 2.5M solution in hexane: 0.67 ml, 1.67 mmole). After 10 min., a solution of 5-trimethylsilyl-3-furaldehyde (254 mg, 1.5 mmole) in THF (2 ml) was added. The solution was stirred for 3 hours while the cooling bath warmed to room temperature. Acetic anhydride (309 mg, 3.03 mmole) was added and the solution stirred at room temperature overnight. The mixture was quenched with water and the aqueous phase extracted with ethyl ether. The combined organic portions were dried over MgSO4, filtered and concentrated. Purification by flash chromatography (silica, 50% ethyl ether/hexane) gave the title compound as a light yellow oil.

reactant | 2-methoxyethoxymethyl tributylstannylmethyl ether | 1.5 mmole, 620 mg | C(CCC)[Sn](CCCC)(CCCC)COCOCCOC
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5-trimethylsilyl-3-furaldehyde | 1.5 mmole, 254 mg | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
reactant | Acetic anhydride | 3.03 mmole, 309 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 ml | O1CCCC1 | C4H8O
product | 3-[1-Acetoxy-2-(2-methoxyethoxy)methoxyethyl]-5-trimethylsilylfuran | C(C)(=O)OC(COCOCCOC)C1=COC(=C1)[Si](C)(C)C | C15H26O6Si
